US07420066B2
Step 3: Preparation of the starting material: (6-Bromo-3-methoxybenzofuran2yl) (2,4-dichloro-phenyl)-methanone
To a solution of 6-Bromo-2-(2,4-dichloro-benzoyl)-benzofuran-3-one (3.30 g, 8.55 mmol) in acetone (50 mL) was added dimethyl sulfate (1.19 g, 9.40 mmol) and cesium carbonate (4.18 g, 12.82 mmol). The resulting mixture was heated at 50 deg for 6 hours at which time the reaction mixture was concentrated via rotary evaporation. The resulting mixture was taken up in EtOAc and washed twice with water and one time with a saturated sodium carbonate solution. The organic portion was dried over MgSO4 and then filtered and concentrated. The resultant oil was purified via column chromatography (10% MeOH/Dichloromethane) to provide the title compound (950 mg, 28%). 1H-NMR (CDCl3): δ 8.03 (d, 1H), 7.65 (d, 1H), 7.46 (m, 2H), 7.35 (m, 2H), 2.46 (s, 3H).

reactant | 6-Bromo-2-(2,4-dichloro-benzoyl)-benzofuran-3-one | 8.55 mmol, 3.30 g | BrC1=CC2=C(C(C(O2)C(C2=C(C=C(C=C2)Cl)Cl)=O)=O)C=C1 | C15H7BrCl2O3
reactant | dimethyl sulfate | 9.40 mmol, 1.19 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | cesium carbonate | 12.82 mmol, 4.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (6-Bromo-3-methoxybenzofuran2yl) (2,4-dichloro-phenyl)-methanone | 950 mg, 28% | BrC1=CC2=C(C(=C(O2)C(=O)C2=C(C=C(C=C2)Cl)Cl)OC)C=C1 | C16H9BrCl2O3
